US08114902B2
(27-3) Synthesis of 4-{2-[3-chloro-2′-fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]ethyl]-4-di(tert-butyl)phosphoryloxymethyl-2-methyl-2-oxazoline
A solution of 4-[2-(4′-bromo-3-chloro-2′-fluorobiphenyl-4-yl)ethyl]-4-di(tert-butyl)phosphoryloxymethyl-2-methyl-2-oxazoline (0.41 g), 4-methylbenzenethiol (87 mg), diisopropylethylamine (180 mg), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (18.1 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (20.9 mg) in 1,4-dioxane (3 mL) was heated under reflux for 8 hr under a nitrogen atmosphere. Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (18.1 mg) and Xantphos (20.9 mg) were added to the reaction mixture, and the mixture was further heated under reflux for 5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (0.14 g) as a colorless oil.

reactant | 4-[2-(4′-bromo-3-chloro-2′-fluorobiphenyl-4-yl)ethyl]-4-di(tert-butyl)phosphoryloxymethyl-2-methyl-2-oxazoline | 0.41 g | BrC1=CC(=C(C=C1)C1=CC(=C(C=C1)CCC1(N=C(OC1)C)COP(=O)(C(C)(C)C)C(C)(C)C)Cl)F | C27H35BrClFNO3P
reactant | 4-methylbenzenethiol | 87 mg | CC1=CC=C(C=C1)S | C7H8S
reactant | diisopropylethylamine | 180 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 20.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | Xantphos | 20.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 18.1 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 18.1 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | Water | O | H2O
product | 4-{2-[3-chloro-2′-fluoro-4′-(4-methylphenylthio)biphenyl-4-yl]ethyl]-4-di(tert-butyl)phosphoryloxymethyl-2-methyl-2-oxazoline | 0.14 g | ClC=1C=C(C=CC1CCC1(N=C(OC1)C)COP(=O)(C(C)(C)C)C(C)(C)C)C1=C(C=C(C=C1)SC1=CC=C(C=C1)C)F | C34H42ClFNO3PS
